Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Egg / Loratadine
 
Attending: ___.
 
Chief Complaint:
Bright Red Blood per Rectum
 
Major Surgical or Invasive Procedure:
Mesenteric Arteriogram ___
 
History of Present Illness:
Ms. ___ is a ___, ___ speaking only woman with 
past
medical history of diverticulosis and diverticular bleed ___ 
who
presents with 3 episodes of bright red blood per rectum.

She woke up this morning and felt the urge to defecate where she
had bright red blood per rectum. She had one more episode,
prompting her son to bring her to the emergency room for
evaluation. While in the emergency room, she had another episode
of blood per rectum. She had headache that she describes as her
chronic headaches that is worsening. She is also having some
lightheadedness but denies any vision changes, confusion, or
inability to ambulate. She denies any associated chest pain,
dyspnea, palpitations, abdominal pain, or back pain. She is on 
no
anticoagulants but does take naproxen twice daily. 

She had a colonoscopy in ___ which showed severe 
diverticulosis,
and in ___ she had rectal bleeding requiring 2 units of packed
red blood cells and admission which was diagnosed as
diverticulosis. She has not had a colonoscopy since nor has she
had any more bleeding episodes since ___.

In the ED, initial VS were:  
T 97.4 HR 91 BP 129/59 RR 16 O2100% RA 
Exam notable for: Mild suprapubic tenderness, normal rectal tone
with frank blood on exam, no hemorrhoids noted.
EKG:  NSR
Labs showed:  
WBC 6.9 -> 7.6
Hgb 13.3 -> 11.7
Hct 41.2 -> 36.4
Plt 168 -> 219
Normal coagulation labs: ___ 10.8 PTT 26.6 INR 1.0
Chem 10 normal
Lactate 1.5

Patient received:  1L NS. Transfused 1unit Prbc.
Imaging showed:  
CTA abd with large amount of active extravasation of contrast
into the sigmoid colon.   Likely blood products within the
rectum. 
Consults:  
ACS was consulted and recommended management by ___ and will
follow.
___ was consulted and recommended mesenteric arteriogram. She was
taken to procedure. Active extravasation was not found and no
embolization was performed. She remained in the PACU for
monitoring post-procedure and was transferred the medicine 
floor.

On arrival to the floor, patient reports some lightheadedness
when changing position after her ___ procedure. She has RLQ
cramping abdominal discomfort which is stable from this morning.
She is having small volume maroon BM. Denies chest pain,
lightheadedness, vision changes at present. Daughter at bedside.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
Spinal Stenosis  
OA  
GERD  
Vitamin D deficiency  
H pylori  
Psoriasis  
Neuropathy  
Constipation  
Diverticula  
preDM  
history of corneal transplant, penetrating keratopathy  
 
Social History:
___
Family History:
Her brothers have ulcers, DM.  Her sisters have DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.5 PO 131 / 80 R Lying 79 18 100 RA 
GENERAL: NAD, resting in bed on bed rest with knee stabilizer in 
place. comfortable appearing
HEENT: anicteric sclera, MMM  
HEART: RRR, S1/S2, no murmurs appreciated
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, mild ttp in R and LLQ, no
rebound/guarding. smear dark maroon stool on pad
EXTREMITIES: no cyanosis, clubbing, or edema. R groin access 
site with blood on dressing, not saturated, no bruit, R DP pulse 
intact.    
NEURO: moving all 4 extremities with purpose  
SKIN: warm and well perfused 

 
Pertinent Results:
Admission Labs:
--------------
___ 11:19AM BLOOD WBC-6.9 RBC-4.40 Hgb-13.3 Hct-41.2# 
MCV-94 MCH-30.2 MCHC-32.3 RDW-15.0 RDWSD-52.1* Plt ___
___ 11:19AM BLOOD Neuts-58.1 ___ Monos-6.9 Eos-2.9 
Baso-0.6 Im ___ AbsNeut-3.98 AbsLymp-2.13 AbsMono-0.47 
AbsEos-0.20 AbsBaso-0.04
___ 11:19AM BLOOD ___ PTT-26.6 ___
___ 11:19AM BLOOD Glucose-96 UreaN-17 Creat-0.5 Na-140 
K-4.6 Cl-103 HCO3-25 AnGap-12
___ 11:19AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.2
___ 11:29AM BLOOD Lactate-1.5

Notable Labs:
-------------
___ 07:05AM BLOOD calTIBC-242* Ferritn-165* TRF-186* 
Iron-54
___ 07:05AM BLOOD Ret Aut-2.0 Abs Ret-0.07

Imaging:
--------
Mesenteric Arteriogram ___:
FINDINGS: Narrowing of the proximal ___ however no active 
hemorrhage is identified in the region of concern in the sigmoid 
colon on the prior CT scan. 
IMPRESSION: ___ and SMA angiograms without evidence of active 
hemorrhage. 

CT Abdomen Pelvis ___:
IMPRESSION: 
1. Large amount of active extravasation of contrast into the 
sigmoid colon, possibly from a diverticular bleed.  Likely blood 
products within the rectum. 
2. Diverticuolosis. 

Colonoscopy ___
Impression: 
Diverticulosis of the whole colon
No evidence of active GI bleeding.
Otherwise normal colonoscopy to cecum 

Discharge Labs:
----------------
___ 07:10AM BLOOD WBC-7.3 RBC-3.55* Hgb-10.7* Hct-33.5* 
MCV-94 MCH-30.1 MCHC-31.9* RDW-16.5* RDWSD-55.8* Plt ___
___ 07:10AM BLOOD Glucose-119* UreaN-3* Creat-0.5 Na-144 
K-3.8 Cl-106 HCO3-23 AnGap-15

 
Brief Hospital Course:
Summary:
------------
Ms. ___ is a ___, ___ speaking only woman with 
past medical history of diverticulosis and lower GI bleed who 
presented with 3 episodes of bright red blood per rectum and 
active extravasation on CTA that was not found on mesenteric 
arteriogram or colonoscopy.

ACUTE ISSUES:
-------------

#Bright red blood per rectum:
#Diverticular bleed:
The most likely source of bleeding was a diverticular bleed. She 
presented with large volume melena, with history of diverticular 
bleed and CTA showing active
extravasation supporting diverticular bleeding exacerbated by 
naproxen use. Of note, she also has history of H. Pylori, per 
Atrius records treated in ___ but never had TOC. She was 
transfused a total of 2 units pRBC with evidence of 
inappropriate response, although she remained hemodynamically 
stable. Attempt at embolization at ___ via mesenteric arteriogram 
on ___ but no active bleeding source identified. Stools waxed 
and waned between bloody and brown, and therefore colonoscopy 
was preformed on ___ to identify bleeding source. Colonoscopy 
revealed diverticulosis throughout the colon without active 
bleed. She should avoid NSAIDS, and may benefit from surgery as 
this episode represents a ___ significant bleed. When she was 
discharged, she was having non-bloody bowel movements and was 
hemodynamically stable with stable hematocrit, and tolerating a 
regular diet.

CHRONIC ISSUES:
----------------
#H/O corneal transplant, L eye penetrating keratopathy: We 
continued her home prednisolone drops.

#Fungal ear infection: She is not currently on medication. She 
reported that she finished a one-month course.

#Osteoarthritis:
#Chronic pain:
#Neuropathy:
We continued her home gabapentin

#Plaque psoriasis: She uses betamethasone at home, but is not 
currently needing this medication.

TRANSITIONAL ISSUES:
#Diverticulosis: She should not take NSAIDs. She would likely 
benefit from GI follow up vs. surgery if bleeding recurs.

#Hpylori History:  Unclear if she has received therapy for 
presumed prior H Pylori Infection.  Please consider therapy if 
indicated and not already completed.

#STOPPED MEDS:
- Naproxen due to bleeding risk

#HELD MEDS
- Acyclovir because unclear why taking.

#Discharge HGB: 10.6.

#CODE STATUS: Full (presumed)
#CONTACT: Son, ___, ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE EVERY 
OTHER DAY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY 
4. Acyclovir 400 mg PO Q12H 
5. Gabapentin 200 mg PO TID 
6. Naproxen 500 mg PO Q12H 
7. Omeprazole 20 mg PO DAILY 
8. Betamethasone Valerate 0.1% Cream 1 Appl TP Frequency is 
Unknown 
9. Calcipotriene 0.005% Cream 1 Appl TP Frequency is Unknown 
10. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Betamethasone Valerate 0.1% Cream 1 Appl TP PRN psoriasis  
2.  Calcipotriene 0.005% Cream 1 Appl TP PRN psoriasis  
3.  Gabapentin 200 mg PO TID  
4.  Loratadine 10 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY  
7.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE EVERY 
OTHER DAY  
8.  Vitamin D 1000 UNIT PO DAILY  
9. HELD- Acyclovir 400 mg PO Q12H  This medication was held. Do 
not restart Acyclovir until you see your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
------------------
Lower GI Bleed
Diverticulosis
Anemia

Secondary Diagnosis:
--------------------
Neuropathy
History of Corneal Transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear  Ms. ___,  
It was a pleasure to take care of you at ___.  

WHY WERE YOU HERE?  
You were admitted to the hospital because you had blood in your 
stool

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you had imaging of your belly, 
which showed bleeding, but when they tried to find where the 
bleeding was coming from, it had stopped. 
- You had a colonoscopy, and there was no bleeding seen. 

 
WHAT SHOULD YOU DO WHEN YOU GET HOME?  
1) Please follow up at your outpatient appointments.  
2) Please take your medications as prescribed. 
3) Please call your doctor if you develop any bloody stools. 
4) Do not take motrin, ibuprofen, advil, naproxen or alleve as 
these may increase the chance of bleeding. 

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___